US06913865B2
Preparation of t-butyl [3-(trimethoxysilyl)propyl]acetate
To an 1.5 M solution of LDA.THF in cyclohexane (53.33 mL, 80.00 mmol) and THF (160 mL), cooled to −78° C. in a dry ice/acetone bath, t-butyl acetate (9.29 g, 80.00 mmol) was added dropwise over 15 min. After 1 h at −78° C., 3-iodopropyltrimethoxysilane (23.21 g, 80.00 mmol) was added dropwise over 15 min. The reaction mixture was allowed to stir at −78° C. for 1 h, sealed with a teflon stopper, and kept in a freezer at −15° C. for 3 days. The cold reaction mixture was vacuum filtered through silica gel (300 mL), eluted with 1:1 hexanes/THF (600 mL), and concentrated to provide 21.48 g of a pale yellow oil. A quick distillation produced the volatile components, and 17.76 g of a colorless oil was recovered: bp 55-85° C. (0.2 mm). This material was purified by fractional distillation to provide 6.26 g (28%) of a colorless oil: bp 62-3° C. (0.03 mm); 1 HNMR (CDCl3) δ 3.56 (s, OMe), 2.21 (t, CH2CO), 1.62 (quintet, CH2), 1.45 (m, CH2), 1.44 (s, tBu), 0.66 (m, CH2Si).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | cyclohexane | 80.00 mmol, 53.33 mL | C1CCCCC1 | C6H12
reactant | t-butyl acetate | 80.00 mmol, 9.29 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 3-iodopropyltrimethoxysilane | 80.00 mmol, 23.21 g | ICCC[Si](OC)(OC)OC | C6H15IO3Si
solvent | THF | 160 mL | C1CCOC1 | C4H8O
product | t-butyl [3-(trimethoxysilyl)propyl]acetate | 21.48 g | CO[Si](CCCCC(=O)OC(C)(C)C)(OC)OC | C12H26O5Si
